US06229047B1
In experimental work involving the preparation of the bromo-methoxy substituted azine, diethyl phosphorohydrazidate was prepared by reaction of diethyl phosphite and hydrazine hydrate in accordance with the following protocol. Hydrazine hydrate (0.13 mol) was added dropwise to a stirred mixture of CCl4 (40 cm3), CH2Cl2 (70 cm3), anhydrous K2CO3 (0.10 mol ) and triethylbenzylammonium chloride (0.66 mmol). The addition was carried out at 20-25° C., and the solution was stirred for 15 min at room temperature. A solution of diethyl phosphite (66 mmol) in Ch2Cl2 (10 cm3) was then added at 20-30° C with external cooling and the was continued for 6 hours. The K2CO3 crystals were filtered off and rinsed with CH2Cl2. After removal of the solvents, the residue was kept under 0.5 Torr for 4 hours to remove volatile impurities. Product purity was verified by NMR spectroscopy. The diethyl phosphorohydrazidate was reacted with 4-methoxyacetophenone (to produce 4-methoxyacetophenone (diethoxyphosphinyl)hydrazone in accordance with the following protocol. A mixture of diethyl phosphorohydrazidate (0.62 mol), 4-methoxyacetophenone (0.062 mol) and benzene (45 cm3) was refluxed at 110-120° C. for 5 hours. Solvent evaporation yielded a crystalline sample. Recrystallization from hexane-benzene (2:1) at 0° C. afforded an analytically pure sample of methoxyacetophenone (diethoxyphosphinyl)hydrazone. This intermediate is then reacted with the para-bromoacetophenone to produce the asymmetrical 4-methoxy-4′-bromoacetophenone azine as follows. A solution of the (diethoxyphosphinyl)hydrazone (3.72 mmol) in dried benzene (12 cm3) was added dropwise to a solution of NaH (4.84 mmol) in dried benzene (10 cm3) with stirring under nitrogen. When the hydrazone had reacted completely (formation of H2 ceased), a solution of the appropriate para-substituted acetophenone (3.72 mmol) in dried benzene (8-12 cm3) was added dropwise at 25° C. The liquid was decanted and washed with cold water until pH 7 was achieved. The solution was dried with MgSO4. The solvent was evaporated off, yielding a crystalline sample. Recrystallization from hexane-benzene (2:1) at 0° C. afforded an analytically pure sample of the asymmetrical azine shown by the following structural formula. As will be understood by those skilled in the art, similar reaction routes can be followed to produce other asymmetrical azines embodying the present invention.

reactant | diethyl phosphorohydrazidate | 0.62 mol | P(OCC)(OCC)(=O)NN | C4H13N2O3P
reactant | 4-methoxyacetophenone | 0.062 mol | CC(=O)C1=CC=C(C=C1)OC | C9H10O2
reactant | benzene | 45 cm3 | C1=CC=CC=C1 | C6H6
product | methoxyacetophenone (diethoxyphosphinyl)hydrazone | C(C)OP(=O)(OCC)NN=C(COC)C1=CC=CC=C1 | C13H21N2O4P
